US04137325
[2-(Aminocarbonyl)-3-(hydroxy)phenylamino]oxoacetic acid ethyl ester
A mixture of 3.4 g. of [2-(aminocarbonyl)-3-benzyloxyphenylamino]oxoacetic acid ethyl ester and 0.3 g. of 5% Pd on charcoal is hydrogenated until hydrogen uptake ceases. The mixture is filtered through celite; the filtrate is evaporated and the residue is recrystallized to give pure product, m.p. 200°-202° C.

reactant | [2-(aminocarbonyl)-3-benzyloxyphenylamino]oxoacetic acid ethyl ester | C(C)OC(C(=O)NC1=C(C(=CC=C1)OCC1=CC=CC=C1)C(=O)N)=O | C18H18N2O5
reactant | hydrogen | [H][H] | H2
catalyst | Pd on charcoal | [Pd] | Pd
product | [2-(Aminocarbonyl)-3-(hydroxy)phenylamino]oxoacetic acid ethyl ester | C(C)OC(C(=O)NC1=C(C(=CC=C1)O)C(=O)N)=O | C11H12N2O5
